Ciruito Mallas
*------------------------------------
*Circuitry
*------------------------------------
*Fuente
VS	in	0	{param_vin}
*Resistencias
RTH	in	out	{param_rth}
RL	out	0	{param_rl}

*------------------------------------
*Parameters
.param  param_vin 1
.param param_rth	333.33
.param param_rl	200
*------------------------------------

*ANALYSIS
*Tran
.Tran 500us
*.op
*
*Resultados
* [ltz] removed: .Plot
* [ltz] removed: .PROBE
.END
